US06620811B2
6-(2-Methoxy-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide
From 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide with cesium carbonate and 2-methoxyethylamine. ES-MS m/e (%): 444 (M+H+, 100).

reactant | 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | ClC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C18H17ClN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 6-(2-Methoxy-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | COCCNC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C21H25N5O4S
